US08022209B2
A mixture of 4-bromo-thiophene-2-carboxylic acid amide (206 mg, 1.0 mmol) and N,N-dimethylformamide dimethyl acetal (0.5 mL, 3.8 mmol) was heated at 85° C. for 1.5 h. The resulting mixture was cooled, and then concentrated under high vacuum to yield 4-bromo-thiophene-2-carboxylic acid dimethylaminomethyleneamide as a light tan solid, which was directly used in the next step without purification.

reactant | 4-bromo-thiophene-2-carboxylic acid amide | 1.0 mmol, 206 mg | BrC=1C=C(SC1)C(=O)N | C5H4BrNOS
reactant | N,N-dimethylformamide dimethyl acetal | 3.8 mmol, 0.5 mL | COC(N(C)C)OC | C5H13NO2
product | 4-bromo-thiophene-2-carboxylic acid dimethylaminomethyleneamide | CN(C)C=NC(=O)C=1SC=C(C1)Br | C8H9BrN2OS
